US09315542B2
(2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 2-methoxyacetate
Prepared according to the procedures described above, by reacting 2-methoxyacetic anhydride with N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide. 1H NMR (300 MHz. CDCl3): δ 8.09 (s, 1H), 7.29-7.15 (m, 6H), 7.09 (d, J=7.5 Hz, 1H). 6.98 (d, J=6.9 Hz, 1H), 5.41-5.32 (m, 1H), 4.75-4.69 (m, 1H), 4.51-4.45 (m, 1H), 4.25 (d, J=16.8 Hz, 1H). 4.11 (d, J=16.8 Hz, 1H), 3.91-3.82 (m, 2H), 3.78-3.74 (m, 1H), 3.65-3.58 (m, 2H), 3.51 (s, 3H), 3.47 (m, 1H), 3.45 (s, 3H), 3.32 (s, 3H), 3.18-3.09 (m, 1H), 2.95-2.86 (m, 1H), 2.76 (s, 3H), 1.33 (s, 3H); MS for C28H37IN4O9S m/z: 733.14 (M+H)+.

reactant | 2-methoxyacetic anhydride | COCC(=O)OC(COC)=O | C6H10O5
reactant | N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide | O[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(CI)C | C25H33IN4O7S
product | (2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 2-methoxyacetate | COCC(=O)O[C@](CI)(C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)C | C28H37IN4O9S
